US07049310B2
d) (E)-3-(2-Oxo-2,3-dihydro-1H-indol-5-yl)acrylic acid hydrochloride salt
To a stirred solution of tert-butyl (E)-3-(2-oxo-2,3-dihydro-1H-indol-5-yl)acrylate (0.80 g, 3.1 mmole) in CH2Cl2(50 mL) at RT was added trifluoroacetic acid (20 mL). After 1 hr the reaction solution was concentrated and the residue was dried under vacuum. An HCl solution (20 mL, 4 M in dioxane) was added and the mixture was concentrated under vacuum. The remaining solid was triturated with diethyl ether and filtered giving the title compound (0.74 g, 33%) as a white solid: MS (ES) m/e 205 (M+H−HCl)+.

reactant | tert-butyl (E)-3-(2-oxo-2,3-dihydro-1H-indol-5-yl)acrylate | 3.1 mmole, 0.80 g | O=C1NC2=CC=C(C=C2C1)/C=C/C(=O)OC(C)(C)C | C15H17NO3
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-(2-Oxo-2,3-dihydro-1H-indol-5-yl)acrylic acid hydrochloride salt | 0.74 g, 33% | Cl.O=C1NC2=CC=C(C=C2C1)/C=C/C(=O)O | InChI=1S/C11H9NO3.ClH/c13-10-6-8-5-7(2-4-11(14)15)1-3-9(8)12-10;/h1-5H,6H2,(H,12,13)(H,14,15);1H/b4-2+;
